US05192762
4-[(9,10-Dihydro-9,10-ethanoanthracenyl)methyl]-1-methylpiperazine (Compound No. 1).
11-Bromomethyl-9,10-dihydro-9,10-ethanoanthracene (0.51 gm), 1-methylpiperazine (1.9 ml) and potassium carbonate (0.20 gm) were combined in hexamethylphosphoramide (5 ml) in a sealed tube and heated to 90° C. for 48 hours. The mixture was extracted between water (25 ml) and ether (50 ml). The ether solution was washed with water (25 ml), then extracted with 3.6 N sulfuric acid (3×25 ml). The combined acid solutions were made basic with the addition of concentrated aqueous ammonia and the resulting mixture was extracted with ether (3×25 ml). The combined ether solutions were dried over magnesium sulfate and the ether removed on a rotary evaporator. The residue was dissolved in anhydrous ether (15 ml) and treated with 3.5% hydrochloric acid in isopropyl alcohol (0.79 ml). The resulting precipitate was filtered, washed with ether (25 ml), and air dried to give the product as a white solid. Analytical data are reported in Table I.

reactant | 11-Bromomethyl-9,10-dihydro-9,10-ethanoanthracene | 0.51 gm | BrCC1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C17H15Br
reactant | 1-methylpiperazine | 1.9 ml | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 0.20 gm | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethylphosphoramide | 5 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-[(9,10-Dihydro-9,10-ethanoanthracenyl)methyl]-1-methylpiperazine | C1(=CC=CC=2C3C4=CC=CC=C4C(C12)CC3)CN3CCN(CC3)C | C22H26N2
